US06127361
630 mg (1.46 mmol) of (+)-5-[[(2R,4S)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine in 5 ml of dichloromethane was treated with 0.5 ml of ether saturated with hydrogen chloride and the mixture was concentrated in vacuo. the residue was recrystalized from acetone-ether to give 690 mg (100%) of (+)-5-[[(2R, 4S)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine hydrochloride as colorless prisms.

reactant | (+)-5-[[(2R,4S)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine | 1.46 mmol, 630 mg | O[C@H]1C[C@@H](N(C1)CCC1=CC=C(C=C1)OC)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C27H30N2O3
reactant | ether | 0.5 ml | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (+)-5-[[(2R, 4S)-4-hydroxy-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine hydrochloride | 690 mg, 100% | Cl.O[C@H]1C[C@@H](N(C1)CCC1=CC=C(C=C1)OC)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C27H30N2O3.ClH/c1-31-24-12-10-20(11-13-24)14-15-28-18-23(30)16-22(28)17-29-25-7-3-2-6-21(25)19-32-27-9-5-4-8-26(27)29;/h2-13,22-23,30H,14-19H2,1H3;1H/t22-,23+;/m1./s1
